### PR TITLE
Update sload link and simulate layer to v103

### PR DESCRIPTION
**Pull request by gaberlunzie1**

### CODE REVIEW

File: RocqOfRust/revm/revm_interpreter/instructions/simulate/host/sload.v [hunk 1]
```diff
@@ -65,58 +104,288 @@ Lemma sload_eq
...
+           cbn.
+           s. {
+             eapply halt_fatal_eq;
+             exact InterpreterTypesEq.
+           }
+           cbn.
+           apply Run.PureEq.
+           cbn.
+           repeat f_equal.
+           exact (f_equal snd H_sload_result).
```
Comment (clarus) [inline RocqOfRust/revm/revm_interpreter/instructions/simulate/host/sload.v:390]: OK, quite impressive that Codex can generate such long proofs!

**Review by clarus — APPROVED** [review]

File: RocqOfRust/revm/revm_interpreter/instructions/simulate/host/sload.v (hunk 1 above)
Comment (gaberlunzie1) [reply RocqOfRust/revm/revm_interpreter/instructions/simulate/host/sload.v:390]: Yeah it's pretty neat. It took a few rounds, basically going after each branch individually.
